US07402672B2
1-Methyl-3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide, Ia-29
Add methyl iodide (20 mg, 0.164 mmol) at r.t. to a mixture of 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide (Ia-33, 47 mg, 0.166 mmol), Cs2CO3 (65 mg, 0.2 mmol) and pyridine (1.5 mL). Heat the reaction at 60° C. in a sealed vessel for 3 hrs. Add additional methyl iodide (20 mg) and moniter the progress on the reaction by chromatography. When complete, cool the mixture, concentrate to dryness and extract into ethyl acetate from brine. Separate the organic phase and concentrate. Purify the residue by flash chromatography twice (SiO2, 3 gm, elute with MeOH 0-4% in DCM; and SiO2, 1 gm, elute with heptane:DCM, 1:1) to provide title compound (10 mg) as a white solid, 1H NMR (CDCl3) and LC-MS (m/e=297) were consistent for the title compound structure.

reactant | methyl iodide | 0.164 mmol, 20 mg | CI | CH3I
reactant | 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide | 0.166 mmol, 47 mg | CNC(=O)C1=C(C2=NC=CC=C2N1)SC1=CC=CC=C1 | C15H13N3OS
reactant | Cs2CO3 | 0.2 mmol, 65 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 20 mg | CI | CH3I
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 1-Methyl-3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide | 10 mg | CNC(=O)C1=C(C2=NC=CC=C2N1C)SC1=CC=CC=C1 | C16H15N3OS
